US04284641
1-Cyclohexylmethylimidazole
Bromomethylcyclohexane (39.8 g; 0.225 mole) was added dropwise to a refluxing solution of imidazole (13.6 g; 0.2 mole) and sodium (4.6 g; 0.2 mole) in absolute ethanol (100 ml). After addition the reaction mixture was heated under reflux for a further 5 hours. After this period the mixture was cooled and the solvent evaporated under reduced pressure. The residue was taken up in water (150 ml), washed with ether (50 ml) and extracted with chloroform (3×50 ml). The combined chloroform extracts were dried over anhydrous magnesium sulphate and evaporated under reduced pressure to leave a residual yellow oil as crude product which was purified to give the product as a colourless oil b.p. 86°-90° C./0.2 mmHg. The product solidified on cooling, m.p. 25° to 30° C.

reactant | Bromomethylcyclohexane | 0.225 mole, 39.8 g | BrCC1CCCCC1 | C7H13Br
reactant | imidazole | 0.2 mole, 13.6 g | N1C=NC=C1 | C3H4N2
reactant | sodium | 0.2 mole, 4.6 g | [Na] | Na
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-Cyclohexylmethylimidazole | C1(CCCCC1)CN1C=NC=C1 | C10H16N2
